Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I wouldn't hurt myself. I love myself."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female ___ student from ___ presenting 
with escalating alcohol use, worsening depression and increased 
risky behaviors in the context of being rejected by a male, who 
was brought in by EMS for acute alcohol intoxication, later in 
the ED endorsing suicidal ideation. 
    
On initial interview in the ED, patient reports feeling under a 
significant amount of stress and pressure since beginning 
college at ___ last year.  This became 
acutely more difficult in ___ of this year, when she was 
turned down by a male with whom she was romantically interested. 
 Although they never dated or had a physical relationship, she 
feels that she lost "the only person who is there for me," and 
has not been able to get over him over the past ___ months.  
She initially began seeing a therapist  last semester, but 
decided to stop therapy and pursue treatment
with a spiritualist, who focuses on manipulation of chakras.  In 
retrospect, she feels that this was a bad decision and states 
that things have only gotten worse since stopping therapy. 

Patient has been "self-medicating" with alcohol at an increasing 
amount over the past several months.  She states that she 
typically goes out 3 times per week (___) 
and drinks to excess.  When asked to quantify, the patient 
reports that she purchased at least 15 shots last time she went 
out.  She frequently has black outs and wakes up with bruises on
her body without knowledge of where they came from.  She 
reflects that "I know I'm an alcoholic," and reports that she 
continues to drink in spite of this knowledge because it helps 
"numb the pain."  Denies drinking everyday and states that she 
has never drank alone in her room.

Patient believes she was likely roofied ~2 weeks ago in the 
context of significant intoxication on alcohol, and is unsure 
about what happened that night.  She states that she is certain 
that there was no penetration as she is a virgin and would know 
if penetration occurred, but is not sure if other
sexually-assaultive actions happened.  

Patient denies thoughts of suicide to this interviewer, but told 
the ED physician earlier this morning while intoxicated that she 
has suicidal thoughts "all the time."  Does endorse to this 
interviewer that she has "run in front of moving cars" 
purposefully in the context of being intoxicated on alcohol.  
When asked if this was an attempt to self harm and potentially
allow herself to get struck by the car, she becomes silent and 
does not give a definitive answer.

Patient has few supports in the area aside from friends in 
school she goes out with.  Her family lives in ___.  She also 
has no active providers in ___ as she stopped seeing her 
therapist several months ago.  Also describes her living 
situation as "toxic," as she does not get along with her 
suite-mates in the college dorm where she lives.  

On current interview patient is tearful, denying suicidal 
ideation and asking how soon she can be discharged. She reports 
feeling anxious about missing school and does not want her 
parents to know she is here, they live in ___. She does report 
headache with lump on back of her head, states she struck it 
last night but does not remember how it happened or whether she 
lost consciousness. 

Psychiatric ROS:
 - Depression - Reports anhedonia, helplessness, worthlessness, 
decreased interest and motivation.  
 - Psychosis - denies symptoms including delusions (persecutory, 
grandiose, thought broadcasting/insertion/withdrawal) or 
hallucinations (auditory, visual, olfactory, or tactile). 
 - Mania- denies symptoms including elevated mood or 
irritability, marked increases in goal-directed behavior, racing 
thoughts, a decreased need for sleep, or social/economic 
indiscretion
 - Anxiety - Reports symptoms consistent with panic attacks, as 
well as frequent ruminative thoughts.

ED Course:  no acute events noted, patient did not require 
restraints 
    
Medication admins: none 
   
ROS:
 - Positive for: Headache ___ on back right and front left 
forehead
 - Otherwise, a 10-point ROS was negative, including: no fever,  
eye pain, hearing deficit, chest pain, difficulty breathing,  
constipation, diarrhea, musculoskeletal pain 

Past psychiatric history: Per  Dr. ___ MD's ED 
consult note from ___ with patient and updated as 
relevant:
 - Sx/Dx: Anxiety diagnosed in high school
 - Hospitalizations: Denies
 - Current treaters and treatment: 
    * Therapist: ___ (___), hasn't seen in 
several months 
 - Medication and ECT trials: None
 - Self-injury/Suicide attempts: Denies
 - Harm to others: Denies
 
Past Medical History:
history of hyperthyroidism
 
Social History:
Substance use history: 
 - EtOH: Escalated as per HPI; up to 15 drinks on weekend 
nights; denies daily drinking or drinking by herself
 - Illicits: Denies
 - Tobacco: Denies 

Personal and Social History: ___
Family History:
Family psychiatric history: 
 - Fam Dx: Father with depression, anxiety
 - Fam Hospitalizations: Unknown
 - Fam Treatment Hx/Med Trials: Unknown
 - Fam Hx Suicide: Paternal great uncle committed suicide
 
Physical Exam:
PHYSICAL EXAMINATION:
 VS: T:98.1 , BP:114/78 , HR:92 , R:16 , O2 sat: 99% on RA

General: young  female, tearful. Well-nourished, well-developed.
Appears stated age.
 HEENT: Normocephalic, palpable lump on right occipital region.
PERRL, EOMI. 
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. 
 Extremities: No clubbing, cyanosis, or edema.
 Skin: several bruises on left flank. 

Neurological:
  Cranial Nerves: II- XII grossly intact
  Motor: strength and tone symmetrical and normal in all 4
extremities, no abnormal movements, no tremor. 
 Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 
Cognition: 
   Wakefulness/alertness: alert and engaged 
   *Attention: intact to interview
   *Orientation: oriented x3 (self, location and date) 
   *Memory:  Intact to recent and remote events
   *Fund of knowledge:  appropriate for level of education - 
able to identify current events in the news  
   *Speech: normal tone, volume, rate and prosody
   *Language: fluent ___ speaker without paraphasic errors.

Mental Status:
 Appearance: malodorous, tearful, wearing hospital gown
 Behavior: Labile, anxious-appearing, tearful, tapping foot
 Mood and Affect: "I'm fine" / non-congruent, tearful, labile
 Thought Process: linear, coherent, goal-oriented. Ruminative on 
discharge planning
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or paranoia
 Judgment and Insight: poor/poor

 
Pertinent Results:
___ 04:00PM URINE  UCG-NEGATIVE
___ 04:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:25AM   GLUCOSE-106* UREA N-4* CREAT-0.6 SODIUM-144 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-24 ANION GAP-19
___ 04:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:25AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:25AM   WBC-7.0 RBC-4.35 HGB-12.6 HCT-38.2 MCV-88 
MCH-29.0 MCHC-33.0 RDW-11.9 RDWSD-38.7
___ 04:18AM BLOOD ALT-14 AST-24 AlkPhos-53
___ 04:18AM BLOOD TSH-1.8
___ 04:18AM BLOOD Free T4-1.3
 
Brief Hospital Course:
Ms. ___ is a ___ year old single ___ woman, currently a 
student at ___, reported history of anxiety, 
no prior psychiatric hospitalizations or suicide attempts, who 
presented to ___ via EMS after being found intoxicated. 
Psychiatry was initially consulted for a safety assessment after 
patient endorsed suicidal ideation. On unit interview,patient 
reported feeling increasingly stressed in the setting of 
academic stressors and difficulty with disappointment regarding 
a romantic interest with worsening of anxiety, depression with 
neurovegetative symptoms, initial endorsement of suicidal 
ideation in the setting of intoxication; symptoms also in the 
context of significant alcohol use. By time of this evaluation, 
however, pt no longer felt suicidal and was future-oriented, 
hopeful, and eager to engage in outpatient treatment. 
Diagnostically, differential is broad at this time and includes 
major depressive disorder without psychotic features vs. 
adjustment disorder vs. alcohol induced depressive disorder. 
Patient does meet criteria for alcohol use disorder as noted 
above. In addition, given young age, cannot rule out underlying 
bipolar diathesis, although nothing in history at this time 
concerning for mania. 

DSM 5 Diagnosis:
-unspecified mood disorder
-Alcohol use disorder

#. Legal/Safety: Patient admitted to Deaconess ___ on a ___, upon admission signed a CV, which was accepted. Patient also 
signed a 3 day notice on ___, expiring ___, and was 
discharged on ___ given her consistent denial of suicidal 
ideation, thoughts of self harm. and good behavioral control, I 
did not believe she met criteria to file a 7&8b. She was kept on 
standard Q15 minute checks, green sharps, and there were no 
acute behavioral/safety concerns while on the unit.

#. Mood disorder: characterized by neurovegetative symptoms, low 
mood, excessive alcohol use, passive SI when intoxicated. By 
time of discharge, pt's mood had improved, and she appeared 
euthymic and was motivated to return to school and continue 
treatment in outpatient setting. The team encouraged 
participation in groups/milieu/supportive psychotherapy and 
psychoeducation. She was able to identify sources of stress 
including high expectations of herself in many facets of her 
life and starting college in the ___ without many supports. She 
continued to deny any suicidal thoughts and remained forward 
thinking. She declined initiation of an antidepressant, however 
would recommend that this remains in consideration as she 
continues treatment as an outpatient. Was offered vistaril 25mg 
PO a4h PRN agitation/anxiety. We attempted on numerous occasions 
to contact her parents, who were in ___, but were unable to  
reach them prior to the expiration of the 3 day notice. Plan on 
discharge was for re-entry meeting with ___, 
who would refer her to psychiatric services pending a follow up 
appointment with her outpatient therapist, who was currently not 
available until ___, as her office was moving location. 

#. Alcohol use disorder: binge type pattern with no history of 
withdrawal symptoms/seizures. She was monitored on ___ and did 
require any benzodiazepine interventions. The team spoke 
extensively with patient about her excessive alcohol use using 
psychoeducation and motivational interviewing techniques. She 
demonstrated some insight into the problematic nature of her 
drinking and the need to develop more positive ways to cope with 
her depression. We encouraged her to participate in AA/NA and 
campus addiction recovery services upon discharge.

#. Hypothyroidism: by history 
___      TSH: 1.8
___  Free T4: 1.3
- Pt to follow up as an outpatient with her primary care 
physician 

# ___:
On arrival to the unit, pt was found to be at acutely increased 
___ of harm to self due to her low mood, passive SI, and 
reckless behavior, in context escalating substance use. Since 
arrival, she has been safe on the unit, her mood has 
consistently improved, and she is motivated to return to school 
and engage in outpatient treatment. While her substance use, 
recent romantic relationship stress, and limited 
family/outpatient supports remain ___ factors, these are 
mitigated by her future-orientation, motivation to work on 
sobriety, engagement in school, willingness to connect with 
outpatient treaters, and lack of prior self-harm. She has 
responded well to this brief hospitalization, no longer appears 
to be at acutely elevated ___ of self-harm, and is safe for 
discharge to the outpatient setting. She is aware that she can 
call ___ to ED if her symptoms worsen or she feels unsafe. 

Patient's overall prognosis is very good, given her 
intelligence, engagement in school, and capacity for 
insight/self-reflection. She will likely do well in personal and 
professional life with outpatient support, such as weekly 
therapy and/or psychopharm focusing on mood, coping, and 
moderation of substance use.

 
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Unspecified mood disorder
- Unspecified anxiety disorder 
- Alcohol use disorder 

 
Discharge Condition:
*VS: T:98.0   BP:90/56   HR:57  resp:16  O2 sat: 98% rm air
  Neurological:
    *station and gait: normal gait and station 
    *tone and strength: moves all four extremities antigravity 
    abnormal movements: no tremors or adventitious movements
  *Appearance: Appears stated age, dressed in hospital gown
  Behavior: mostly calm, cooperative with interviewer, good eye 
contact, no psychomotor concentration or agitation noted
  *Mood and Affect: 'fine'/slightly anxious, mood congruent, 
appropriate
*Thought process: linear, goal and future oriented 
*Thought Content: denies SI/HI, AVH
  *Judgment and Insight: improved  

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicidal 
thoughts. You are now ready for discharge and continued 
treatment with your outpatient providers

- ___ follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please avoid abusing alcohol as this can further worsen your 
psychiatric illnesses.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___